US08377970B2
N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}-2-(pyridin-4-yl)acetamide hydrochloride
Following the general procedure-1, N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}-2-(pyridin-4-yl)acetamide (280 mg) was prepared from 4-(pyridin-4-yl)acetic acid (310 mg, 1.78 mmol) and intermediate 36 (300 mg, 1.12 mmol) as an off-white solid and dissolved in THF. Saturated HCl in diethyl ether was added to this solution at 0° C. and stirred for 15 min. Solid that separated out was filtered and dried to give the title compound (68 mg) as an Off-white solid M.P.: 185.2-188° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 11.26 (s, 1H), 8.87 (d, J 6.6, 2H), 8.81 (d, J 2.5, 1H), 8.30 (dd, J 2.6, 8.8, 1H), 8.06 (d, J 6.6, 2H), 7.76 (d, J 8.8, 1H), 6.62 (s, 1H), 4.19 (s, 2H), 2.52-2.42 (s, 1H), 1.00-0.91 (m, 2H), 0.80-0.72 (m, 2H). MS (m/z): 385.53 [M−H—HCl]−.

reactant | N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}-2-(pyridin-4-yl)acetamide | 280 mg | C1(CC1)C1=CC(=NN1C1=CC=C(C=N1)NC(CC1=CC=NC=C1)=O)C(F)(F)F | C19H16F3N5O
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}-2-(pyridin-4-yl)acetamide hydrochloride | 68 mg | Cl.C1(CC1)C1=CC(=NN1C1=CC=C(C=N1)NC(CC1=CC=NC=C1)=O)C(F)(F)F | InChI=1S/C19H16F3N5O.ClH/c20-19(21,22)16-10-15(13-1-2-13)27(26-16)17-4-3-14(11-24-17)25-18(28)9-12-5-7-23-8-6-12;/h3-8,10-11,13H,1-2,9H2,(H,25,28);1H
